US07485634B2
Preparation of Ethyl 8-fluoro-3-benzoyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and benzoyl chloride; 1H-NMR (CDCl3): δ 10.57 (1H, br s), 8.05 (1H, s), 7.55 (3H, m), 7.45 (3H, m), 7.05 (1H, dd), 6.87 (1H, m), 4.22 (4H, m), 3.24 (2H, t), 1.2 (3H, t); MS (ES): 379 (MH+).

reactant | ethyl 8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC=1C=CC=2C3=C(NC2C1)C(=CNCC3)C(=O)OCC | C15H15FN2O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Ethyl 8-fluoro-3-benzoyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC=1C=CC=2C3=C(NC2C1)C(=CN(CC3)C(C3=CC=CC=C3)=O)C(=O)OCC | C22H19FN2O3
